US07923462B2
To a mixture of 5-benzyloxy-4-methoxy-2-(5-methyl-[1,2,4]oxadiazol-3-yl)benzenesulfonylchloride, dimethyl-amine hydrochloride (203 mg) and tetrahydrofuran (20 mL) was added triethylamine (0.693 mL) under ice-bath cooling. After stirring at room temperature overnight, 2 mol/L hydrochloric acid was added to the mixture. The separated organic layer was washed with 2 mol/L hydrochloric acid and brine successively, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 5-benzyloxy-4-methoxy-N,N-dimethyl-2-(5-methyl-[1,2,4]oxadiazol-3-yl)benzenesulfonamide.

reactant | 5-benzyloxy-4-methoxy-2-(5-methyl-[1,2,4]oxadiazol-3-yl)benzenesulfonylchloride | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)S(=O)(=O)Cl)C1=NOC(=N1)C)OC | C17H15ClN2O5S
reactant | dimethyl-amine hydrochloride | 203 mg | Cl.CNC
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | triethylamine | 0.693 mL | C(C)N(CC)CC | C6H15N
product | 5-benzyloxy-4-methoxy-N,N-dimethyl-2-(5-methyl-[1,2,4]oxadiazol-3-yl)benzenesulfonamide | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)S(=O)(=O)N(C)C)C1=NOC(=N1)C)OC | C19H21N3O5S
